### ISSUE TITLE
Specifying some arguments of a simp theorem can make it unapplicable

### ISSUE THREAD

**Issue by Kha** [leanprover/lean4#387]
...because remaining metavariables do not participate in matching
```
axiom p {α β} : α → β → Prop
axiom foo {α β} (a : α) (b : β) : p a b

example : p 0 0 := by simp [foo]  -- works
example : p 0 0 := by simp [foo 0]  -- fails
example : p 0 0 := by simp [foo 0 0]  -- works
```

**Comment by Kha** [comment]
TC resolution should probably be delayed as well
```
axiom p {α} : α → Prop
axiom foo {α} [ToString α] (n : Nat) (a : α) : p a

example : p 0 := by simp [foo 0]  -- fails at elaborating the argument
```
